US09255090B2
To a solution of 5-bromo-2-chlorophenol (2.08 g, 10 mmol, 1.0 eq.) and potassium carbonate (4.15 g, 30 mmol, 3.0 eq.) in MeCN (19 mL), 2-iodopropane (1.53 mL, 15 mmol, 1.5 eq.) was added. The mixture was stirred at r.t. for 18 hours. The mixture was heated up to 50° C. and stirred at that temperature for 2.5 hours. The reaction mixture was partitioned between AcOEt and water. The layers were separated and the aq. phase was extracted with AcOEt (2×). The comb. org. extracts were washed with water and sat. aq. NaCl soln., dried over MgSO4, filtered, and concentrated in vacuo to give 4-bromo-1-chloro-2-isopropoxy-benzene as a yellow oil. The product was used without further purification. LC-MS 3: tR=0.98 min; [M+H]+=no ionization

reactant | 5-bromo-2-chlorophenol | 10 mmol, 2.08 g, 1.0 eq. | BrC=1C=CC(=C(C1)O)Cl | C6H4BrClO
reactant | potassium carbonate | 30 mmol, 4.15 g, 3.0 eq. | C([O-])([O-])=O.[K+].[K+]
reactant | 2-iodopropane | 15 mmol, 1.53 mL, 1.5 eq. | IC(C)C | C3H7I
solvent | MeCN | 19 mL | CC#N | C2H3N
product | 4-bromo-1-chloro-2-isopropoxy-benzene | BrC1=CC(=C(C=C1)Cl)OC(C)C | C9H10BrClO
